US06753329B2
Synthesis of (1-Hydroxy-2-methylpropylidene)methane-1,1-dicarbonitrile
A solution of malononitrile (4.0 g, 60 mmol) in THF (30 mL) was added dropwise over 1 h to a suspension of NaH (95%, 3.0 g, 120 mmol) in THF (75 mL) at 0° C. The reaction was then warmed to room temp and stirred for 1 h. The suspension was then cooled to 0° C. and treated dropwise with a solution of isobutyryl chloride (6.3 mL, 60 mmol) in THF (25 mL). The addition was controlled so that the internal temp does not rise above 10° C. Upon completion of the addition the reaction was warmed to room temp and stirred for 24 h. The reaction was then quenched with H2O (10 mL) and evaporated. The residue was then partitioned between EtOAc (100 mL) and 1 N HCl (75 mL). The aqueous layer was extracted again with EtOAc (50 mL) and the combined organic layers were washed with brine (100 mL), dried (c), filtered, and evaporated to yield the desired product (7.95 g, 96%).

reactant | malononitrile | 60 mmol, 4.0 g | C(CC#N)#N | C3H2N2
reactant | NaH | 120 mmol, 3.0 g | [H-].[Na+]
reactant | isobutyryl chloride | 60 mmol, 6.3 mL | C(C(C)C)(=O)Cl | C4H7ClO
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 75 mL | C1CCOC1 | C4H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | (1-Hydroxy-2-methylpropylidene)methane-1,1-dicarbonitrile | 7.95 g, 96% | OC(C(C)C)=C(C#N)C#N | C7H8N2O
